US07232929B2
(i) procedure for the synthesis of 5-amino-1,3,4-thiadiazole-2-sulfonamide
22.2 gr of acetazolamide, was dissolved in 100 ml concentrated HCl solution (35%) and refluxed on a water bath (60° C.) for two hours.

reactant | acetazolamide | 22.2 gr | CC(=O)NC1=NN=C(S1)S(=O)(=O)N | C4H6N4O3S2
solvent | HCl | 100 ml | Cl | ClH
product | 5-amino-1,3,4-thiadiazole-2-sulfonamide | NC1=NN=C(S1)S(=O)(=O)N | C2H4N4O2S2
